### PR TITLE
feat: FullEta.step_lc_l

### PR DESCRIPTION
**Pull request by lengyijun**
This PR adds a missing lemma to the `FullEta` development in the locally nameless untyped λ‑calculus:  
a proof that **the source term of a single‑step η‑reduction is locally closed**. It also moves the definition of `LcAt` earlier to avoid some duplication of proofs about `LC`.

#### New Lemmas

`FullEta.step_lc_l` : Proves that the left side of an η-reduction `step (M ⭢ηᶠ M')` is locally closed.
Uses induction on the reduction step and the grind tactic.

`lcAt_openRec_above_lcAt` : Shows that opening a term at a higher index than its locally closed level leaves it unchanged.

#### Refactored Lemmas

open_lc : Simplified proof using `lcAt_openRec_above_lcAt` and `lcAt_iff_LC`.

PR description is generated by AI

### CODE REVIEW

**Comment by lengyijun** [comment]
Compared to `FullBeta.step_lc_l`, `FullEta.step_lc_l` requires `HasFresh`

**Comment by lengyijun** [comment]
Fail to find theorem `N.LC -> N.openRec i M = N`, so I prove it with `LcAt`

**Comment by chenson2018** [comment]
I took the liberty of moving around imports so that any generalizations of `LcAt` don't get duplicated.

**Comment by chenson2018** [comment]
The PR description is very large proportional to the change, maybe just the first line is needed? If AI was used, it is our policy is that this is disclosed when opening the PR.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 1]
```diff
@@ -44,6 +44,22 @@ lemma step_lc_r (step : M ⭢ηᶠ M') : LC M' := by
...
+  induction step with
+  | base h_e => cases h_e with
+                | eta lc_A => apply LC.abs ∅
+                              intros _ _
+                              refine LC.app (?_) (LC.fvar _)
+                              rw [lcAt_openRec_above_lcAt _ _ 0 0]
+                              · assumption
+                              · omega
+                              · rw [lcAt_iff_LC]
+                                assumption
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]:
```suggestion
  | base h_e => cases h_e with | eta => apply LC.abs ∅; grind
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]

**Comment by lengyijun** [comment]
PR description is generated by AI

**Comment by lengyijun** [comment]
> If AI was used, it is our policy is that this is disclosed when opening the PR.

Not mentioned in CONTRIBUTING.md

**Comment by chenson2018** [comment]
> > If AI was used, it is our policy is that this is disclosed when opening the PR.
> 
> Not mentioned in CONTRIBUTING.md

This has been a policy for some time in alignment with Mathlib, but you are correct that it was not documented. I have opened a PR to correct this oversight. Thank you for complying in the meantime! I made an additional small edit to include the change I made to the import structure.

**Review by chenson2018 — APPROVED** [review]
